US07449460B2
By the procedure of Example 27, 0.1 g (0.18 mmol) of 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-6-amino-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinoline-3-carbonitrile is reacted with 0.3 ml (1.9 mmol) of N,N-diethyl aniline and 0.04 ml (0.56 mmol) of acetyl chloride in 1.5 mL of NMP. The crude residue is purified by silica gel chromatography (gradient 95:5 methylene chloride/methanol to 4:1 methylene chloride/methanol) to give 95 mg of N-[4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-3-cyano-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinolin-6-yl]acetamide as a beige solid, mp 243-255° C.

reactant | 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-6-amino-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinoline-3-carbonitrile | 0.18 mmol, 0.1 g | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)N)N1CCC(CC1)N1CCCC1)C#N | C29H31ClN8S
reactant | N,N-diethyl aniline | 1.9 mmol, 0.3 ml | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | acetyl chloride | 0.56 mmol, 0.04 ml | C(C)(=O)Cl | C2H3ClO
solvent | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
product | N-[4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-3-cyano-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinolin-6-yl]acetamide | 95 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)NC(C)=O)N1CCC(CC1)N1CCCC1)C#N | C31H33ClN8OS
